US08058447B2
2,8-Dimethyl-5-nitro-4H-chromen-4-one
2 g (11.48 mmol) of 2,8-dimethyl-4H-chromen-4-one are dissolved in 15 ml of concentrated sulfuric acid and, at 0° C., 0.7 g (11.48 mmol) of fuming nitric acid is added, during which the temperature should not exceed 5° C. The mixture is then stirred at room temperature for 1 h. The reaction mixture is poured into ice-water, whereupon a colorless solid precipitates. This is filtered off and washed several times with water and ice-cold methanol. 2.3 g (90.8% of theory) of the title compound are obtained.

reactant | 2,8-dimethyl-4H-chromen-4-one | 11.48 mmol, 2 g | CC=1OC2=C(C=CC=C2C(C1)=O)C | C11H10O2
reactant | nitric acid | 11.48 mmol, 0.7 g | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 15 ml | S(O)(O)(=O)=O | H2O4S
product | 2,8-Dimethyl-5-nitro-4H-chromen-4-one | CC=1OC2=C(C=CC(=C2C(C1)=O)[N+](=O)[O-])C | C11H9NO4
